US05780472
1-[(5-ethyl-6-methyl-2-phenoxypyridin-3-yl)aminocarbonyl]-4-(3-hydroxy-4-methoxyphenyl)piperazine
Phenyl-N-(5-ethyl-6-methyl-2-phenoxypyridin-3-yl)carbamate and 1-(3-hydroxy-4-methoxyphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl-N-(5-ethyl-6-methyl-2-phenoxypyridin-3-yl)carbamate | C1(=CC=CC=C1)OC(NC=1C(=NC(=C(C1)CC)C)OC1=CC=CC=C1)=O | C21H20N2O3
reactant | 1-(3-hydroxy-4-methoxyphenyl)piperazine | OC=1C=C(C=CC1OC)N1CCNCC1 | C11H16N2O2
product | 1-[(5-ethyl-6-methyl-2-phenoxypyridin-3-yl)aminocarbonyl]-4-(3-hydroxy-4-methoxyphenyl)piperazine | yield: 69% | C(C)C=1C=C(C(=NC1C)OC1=CC=CC=C1)NC(=O)N1CCN(CC1)C1=CC(=C(C=C1)OC)O | C26H30N4O4
